US04661489
1-(3-Phenylpropyl)-4-benzyl-2-hydroxy-6-oxopiperazine
Saturated aqueous sodium bicarbonate solution (20 ml) was added to a solution of 1-(3-phenylpropyl)-4-benzyl-2,6-piperazinedione (5.35 g) in ethanol (170 ml) at 5° C. and sodium borohydride (1.23 g) added portionwise to the resulting mixture at 5° C. over a period of 2 h. The mixture was stirred for a further 1 h at 5° C. and the solvent removed in vacuo. Water (50 ml) was added, and the mixture extracted with dichloromethane (3×50 ml), the extracts washed with brine and dried (MgSO4). Evaporation of the solvent gave the title compound as a white solid (4.36 g, 81%)

reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
reactant | 1-(3-phenylpropyl)-4-benzyl-2,6-piperazinedione | 5.35 g | C1(=CC=CC=C1)CCCN1C(CN(CC1=O)CC1=CC=CC=C1)=O | C20H22N2O2
reactant | sodium borohydride | 1.23 g | [BH4-].[Na+]
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 1-(3-Phenylpropyl)-4-benzyl-2-hydroxy-6-oxopiperazine | 4.36 g, 81% | C1(=CC=CC=C1)CCCN1C(CN(CC1=O)CC1=CC=CC=C1)O | C20H24N2O2
